US08039460B2
Step B: N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]-4-(6-methyl-3-oxo-2,3-dihydropyridazin-4-yl)piperidine-1-carboxamide
Triethylamine (33.0 μL, 0.24 mmol) was added to a solution of the hydrochloride salt of (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine (33.0 mg, 0.079 mmol) and 4-nitrophenyl chloroformate (16.0 mg, 0.079 mmol) in tetrahydrofuran (1 mL) at 0° C. After 15 min, a solution of 6-methyl-4-piperidin-4-ylpyridazin-3(2H)-one (15.0 mg, 0.079 mmol) in dichloromethane (1 mL) and triethylamine (22 μL, 0.16 mmol) were added and the mixture allowed to warm to ambient temperature. After 4 h, saturated aqueous sodium carbonate was added and the mixture was extracted with ethyl acetate (3×). The organic layer was washed with saturated aqueous sodium bicarbonate (3×), saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→90% dichloromethane/methanol) gave the title compound (22 mg). MS 565.2306 (M+1).

reactant | Triethylamine | 0.24 mmol, 33.0 μL | C(C)N(CC)CC | C6H15N
reactant | (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine | 0.079 mmol, 33.0 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(F)(F)F)N | C16H16F5N3
reactant | 4-nitrophenyl chloroformate | 0.079 mmol, 16.0 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 6-methyl-4-piperidin-4-ylpyridazin-3(2H)-one | 0.079 mmol, 15.0 mg | CC=1C=C(C(NN1)=O)C1CCNCC1 | C10H15N3O
reactant | triethylamine | 0.16 mmol, 22 μL | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]-4-(6-methyl-3-oxo-2,3-dihydropyridazin-4-yl)piperidine-1-carboxamide | 22 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(F)(F)F)NC(=O)N2CCC(CC2)C=2C(NN=C(C2)C)=O | C27H29F5N6O2
